### PR TITLE
[Merged by Bors] - feat: relative versions of equicontinuity

### PR DESCRIPTION
**Pull request by ADedecker**
- [x] depends on: #7568

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UniformSpace/Equicontinuity.lean [hunk 1]
```diff
@@ -126,6 +147,68 @@ protected abbrev Set.UniformEquicontinuous (H : Set <| β → α) : Prop :=
   UniformEquicontinuous ((↑) : H → β → α)
 #align set.uniform_equicontinuous Set.UniformEquicontinuous
 
+/-- A family `F : ι → β → α` of functions between uniform spaces is
+*uniformly equicontinuous on `S : Set β`* if, for all entourage `U ∈ 𝓤 α`, there is a relative
+entourage `V ∈ 𝓤 β ⊓ 𝓟 (S ×ˢ S)` such that, whenever `x` and `y` are `V`-close, we have that,
+*for all `i : ι`*, `F i x` is `U`-close to `F i x₀`. -/
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Equicontinuity.lean:153]:
```suggestion
*for all `i : ι`*, `F i x` is `U`-close to `F i y`. -/
```

File: Mathlib/Topology/UniformSpace/Equicontinuity.lean [hunk 2]
```diff
@@ -113,6 +124,16 @@ protected abbrev Set.Equicontinuous (H : Set <| X → α) : Prop :=
...
+  ∀ x₀ ∈ S, EquicontinuousWithinAt F S x₀
+
+/-- We say that a set `H : Set (X → α)` of functions is equicontinuous on a subset if the family
+`(↑) : ↥H → (X → α)` is equicontinuous on that subset. -/
+protected abbrev Set.EquicontinuousOn (H : Set <| X → α) (S : Set X) : Prop :=
+  EquicontinuousOn ((↑) : H → X → α) S
+
 /-- A family `F : ι → β → α` of functions between uniform spaces is *uniformly equicontinuous* if,
 for all entourage `U ∈ 𝓤 α`, there is an entourage `V ∈ 𝓤 β` such that, whenever `x` and `y` are
 `V`-close, we have that, *for all `i : ι`*, `F i x` is `U`-close to `F i x₀`. -/
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Equicontinuity.lean:139]:
```suggestion
`V`-close, we have that, *for all `i : ι`*, `F i x` is `U`-close to `F i y`. -/
```

File: Mathlib/Topology/UniformSpace/Equicontinuity.lean [hunk 3]
```diff
@@ -126,6 +147,68 @@ protected abbrev Set.UniformEquicontinuous (H : Set <| β → α) : Prop :=
...
+family `(↑) : ↥H → (X → α)` is uniformly equicontinuous on that subset. -/
+protected abbrev Set.UniformEquicontinuousOn (H : Set <| β → α) (S : Set β) : Prop :=
+  UniformEquicontinuousOn ((↑) : H → β → α) S
+
+lemma EquicontinuousAt.equicontinuousWithinAt {F : ι → X → α} {x₀ : X} (H : EquicontinuousAt F x₀)
+    (S : Set X) : EquicontinuousWithinAt F S x₀ :=
+  fun U hU ↦ (H U hU).filter_mono inf_le_left
+
+lemma EquicontinuousWithinAt.mono {F : ι → X → α} {x₀ : X} {S T : Set X}
+    (hST : S ⊆ T) (H : EquicontinuousWithinAt F T x₀) : EquicontinuousWithinAt F S x₀ :=
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Equicontinuity.lean:167]:
```suggestion
    (H : EquicontinuousWithinAt F T x₀) (hST : S ⊆ T) : EquicontinuousWithinAt F S x₀ :=
```
With dot notation, it's better if the assumption which is used for dot notation comes first, as otherwise this leads to cryptic error messages in some situtations.

File: Mathlib/Topology/UniformSpace/Equicontinuity.lean [hunk 4]
```diff
@@ -126,6 +147,68 @@ protected abbrev Set.UniformEquicontinuous (H : Set <| β → α) : Prop :=
...
+lemma equicontinuous_restrict_iff (F : ι → X → α) {S : Set X} :
+    Equicontinuous (S.restrict ∘ F) ↔ EquicontinuousOn F S := by
+  simp [Equicontinuous, EquicontinuousOn, equicontinuousAt_restrict_iff]
+
+lemma UniformEquicontinuous.uniformEquicontinuousOn {F : ι → β → α} (H : UniformEquicontinuous F)
+    (S : Set β) : UniformEquicontinuousOn F S :=
+  fun U hU ↦ (H U hU).filter_mono inf_le_left
+
+lemma UniformEquicontinuousOn.mono {F : ι → β → α} {S T : Set β}
+    (hST : S ⊆ T) (H : UniformEquicontinuousOn F T) : UniformEquicontinuousOn F S :=
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Equicontinuity.lean:200]: ditto

File: Mathlib/Topology/UniformSpace/Equicontinuity.lean [hunk 5]
```diff
@@ -170,117 +282,220 @@ theorem equicontinuousAt_unique [Unique ι] {F : ι → X → α} {x : X} :
...
+    (h : H.EquicontinuousOn S) {f : X → α} (hf : f ∈ H) : ContinuousOn f S :=
+  h.continuousOn ⟨f, hf⟩
+
 /-- Each function of a uniformly equicontinuous family is uniformly continuous. -/
 theorem UniformEquicontinuous.uniformContinuous {F : ι → β → α} (h : UniformEquicontinuous F)
     (i : ι) : UniformContinuous (F i) := fun U hU =>
   mem_map.mpr (mem_of_superset (h U hU) fun _ hxy => hxy i)
 #align uniform_equicontinuous.uniform_continuous UniformEquicontinuous.uniformContinuous
 
+/-- Each function of a family uniformly equicontinuous on `S` is uniformly continuous `S`. -/
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Equicontinuity.lean:386]:
```suggestion
/-- Each function of a family uniformly equicontinuous on `S` is uniformly continuous on `S`. -/
```

File: Mathlib/Topology/UniformSpace/Equicontinuity.lean [hunk 6]
```diff
@@ -315,53 +548,102 @@ theorem uniformEquicontinuous_iff_uniformContinuous {F : ι → β → α} :
   rfl
 #align uniform_equicontinuous_iff_uniform_continuous uniformEquicontinuous_iff_uniformContinuous
 
+/-- A family `𝓕 : ι → β → α` is uniformly equicontinuous n `S` iff the function `swap 𝓕 : β → ι → α`
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Equicontinuity.lean:551]:
```suggestion
/-- A family `𝓕 : ι → β → α` is uniformly equicontinuous on `S` iff the function `swap 𝓕 : β → ι → α`
```

File: Mathlib/Topology/UniformSpace/Equicontinuity.lean [hunk 7]
```diff
@@ -315,53 +548,102 @@ theorem uniformEquicontinuous_iff_uniformContinuous {F : ι → β → α} :
...
+is uniformly continuous on `S`
+*when `ι → α` is equipped with the uniform structure of uniform convergence*. This is very useful
+for developping the equicontinuity API, but it should not be used directly for other purposes. -/
+theorem uniformEquicontinuousOn_iff_uniformContinuousOn {F : ι → β → α} {S : Set β} :
+    UniformEquicontinuousOn F S ↔ UniformContinuousOn (ofFun ∘ Function.swap F : β → ι →ᵤ α) S := by
+  rw [UniformContinuousOn, (UniformFun.hasBasis_uniformity ι α).tendsto_right_iff]
+  rfl
+
+theorem equicontinuousWithinAt_iInf_rng {α' : Type*} {u : κ → UniformSpace α'} {F : ι → X → α'}
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Equicontinuity.lean:560]: What about moving `α'`, `X'` and `β'` declaration to the `variable` line?

File: Mathlib/Topology/UniformSpace/Equicontinuity.lean [hunk 8]
```diff
@@ -420,6 +744,16 @@ theorem UniformInducing.equicontinuousAt_iff {F : ι → X → α} {x₀ : X} {u
...
+of `𝓕` by `u`, is equicontinuous at `x₀` within `S`. -/
+theorem UniformInducing.equicontinuousWithinAt_iff {F : ι → X → α} {S : Set X} {x₀ : X} {u : α → β}
+    (hu : UniformInducing u) : EquicontinuousWithinAt F S x₀ ↔
+      EquicontinuousWithinAt ((u ∘ ·) ∘ F) S x₀ := by
+  have := (UniformFun.postcomp_uniformInducing (α := ι) hu).inducing
+  simp only [equicontinuousWithinAt_iff_continuousWithinAt, this.continuousWithinAt_iff]
+  rfl
+
 /-- Given `u : α → β` a uniform inducing map, a family `𝓕 : ι → X → α` is equicontinuous iff the
 family `𝓕'`, obtained by precomposing each function of `𝓕` by `u`, is equicontinuous. -/
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Equicontinuity.lean:758]:
```suggestion
family `𝓕'`, obtained by composing each function of `𝓕` by `u`, is equicontinuous. -/
```
Looks to me that precomposing is on the wrong side. Same thing below.

File: Mathlib/Topology/UniformSpace/Equicontinuity.lean [hunk 9]
```diff
@@ -462,68 +825,168 @@ protected theorem EquicontinuousAt.closure {A : Set (X → α)} {x₀ : X} (hA :
...
-#align filter.tendsto.continuous_at_of_equicontinuous_at Filter.Tendsto.continuousAt_of_equicontinuousAt
-
-/-- A version of `Equicontinuous.closure` applicable to subsets of types which embed continuously
-into `X → α` with the product topology. It turns out we don't need any other condition on the
-embedding than continuity, but in practice this will mostly be applied to `DFunLike` types where
-the coercion is injective. -/
+/-- If a set of functions is equicontinuous at some `x₀` within a set `S`, its closure for the
+product topology is also equicontinuous at `x₀` within `S`. This would also be true for the coarser
+topology of pointwise convergence on `S ∪ {x₀}`, see `EquicontinuousWithinAt.closure'`. -/
+protected theorem EquicontinuousWithinAt.closure {A : Set (X → α)} {S : Set X} {x₀ : X}
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Equicontinuity.lean:831]: Shouldn't this one be in the `Set.EquicontinuousWithinAt` namespace, since you're applying it to sets of functions? If you agree, this means you don't need to put on the prime on the other version in the `EquicontinuousWithinAt` namespace.
Same thing below for all the other variations.

File: Mathlib/Topology/UniformSpace/Equicontinuity.lean [hunk 10]
```diff
@@ -462,68 +825,168 @@ protected theorem EquicontinuousAt.closure {A : Set (X → α)} {x₀ : X} (hA :
...
 theorem Filter.Tendsto.uniformContinuous_of_uniformEquicontinuous {l : Filter ι} [l.NeBot]
     {F : ι → β → α} {f : β → α} (h₁ : Tendsto F l (𝓝 f)) (h₂ : UniformEquicontinuous F) :
     UniformContinuous f :=
-  (uniformEquicontinuous_at_iff_range.mp h₂).closure.uniformContinuous
+  (uniformEquicontinuous_iff_range.mp h₂).closure.uniformContinuous
     ⟨f, mem_closure_of_tendsto h₁ <| eventually_of_forall mem_range_self⟩
+```
+
+Unfortunately, the proofs get painful when dealing with the relative case as one needs to change
+the ambiant topology. So it turns out to be easier to re-do the proof by hand.
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Equicontinuity.lean:929]:
```suggestion
the ambient topology. So it turns out to be easier to re-do the proof by hand.
```
C'est comme "independent", les français sont désavantagés ici.

**Review by sgouezel — COMMENTED** [review]
LGTM, thanks!

File: Mathlib/Topology/UniformSpace/Equicontinuity.lean (hunk 9 above)
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/Equicontinuity.lean:831]: I'm not a big fan of this, because then `EquicontinuousWithinAt.closure` changes meaning if you're in namespace `Set` (opening `Set` is okay though), and the difference between the two is hard to tell when used with dot notation. Also, the current spelling does work fine with dot notation because `Set.EquicontinuousWithinAt` is an `abbrev`.

Comment (sgouezel) [reply Mathlib/Topology/UniformSpace/Equicontinuity.lean:831]: My problem is more in the other direction: if you have an assumption `H` that something (which is not a set of functions, but rather a family of functions) is equicontinuous and you try `H.closure`, then this will fails with a weird error message. With my proposition, `H.closure` should do the right thing in any case.

Anyway, I will follow whatever you think is best.

Comment (sgouezel) [reply Mathlib/Topology/UniformSpace/Equicontinuity.lean:831]: I think I would keep the current meaning of `closure'` and `closure` (because `closure` is more common and easier to use), but I would replace `EquicontinuousWithinAt.closure` with `Set.EquicontinuousWithinAt.closure` to minimize the risk that someones calls `H.closure` when `H` is about a family of functions instead of a set of functions. Of course, it's not perfect (as you say, in the namespace `Set`, it doesn't protect you against the mistake), but it would still be an improvement over the current situation. You have convinced me that having both named `closure` but separated only by the namespace would be too prone to confusion.

**Comment by sgouezel** [comment]
bors d+
(Do as you prefer on the `closure` vs `closure'` business, but maybe add some comment explaining the design).
Thanks!

File: Mathlib/Topology/UniformSpace/Equicontinuity.lean (hunk 9 above)
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/Equicontinuity.lean:831]: Sounds good to me, I'll do that.

**Comment by ADedecker** [comment]
bors merge
